US07820821B2
A solution of 2-chloro-4-fluoro-N-(1H-indazol-6-yl)-5-nitrobenzamide (2 mmol) in dioxane (4 mL) was reacted with aqueous NH4OH using the conditions described in Example 115. After the formation of 2-amino-4-fluoro-N-(1H-indazol-6-yl)-5-nitrobenzamide was complete, the volatiles were removed in vacuo. The residue obtained was suspended in cold water with stirring. The solid formed was collected by filtration, washed with water, and dried in vacuo to provide the product, 4-amino-2-chloro-N-(1H-indazol-6-yl)-5-nitrobenzamide as a yellow solid.

reactant | 2-chloro-4-fluoro-N-(1H-indazol-6-yl)-5-nitrobenzamide | 2 mmol | ClC1=C(C(=O)NC2=CC=C3C=NNC3=C2)C=C(C(=C1)F)[N+](=O)[O-] | C14H8ClFN4O3
reactant | NH4OH | [NH4+].[OH-]
reactant | 2-amino-4-fluoro-N-(1H-indazol-6-yl)-5-nitrobenzamide | NC1=C(C(=O)NC2=CC=C3C=NNC3=C2)C=C(C(=C1)F)[N+](=O)[O-] | C14H10FN5O3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-amino-2-chloro-N-(1H-indazol-6-yl)-5-nitrobenzamide | NC1=CC(=C(C(=O)NC2=CC=C3C=NNC3=C2)C=C1[N+](=O)[O-])Cl | C14H10ClN5O3
